US05789404
N-benzyl-N-methyl-2-[5-chloro-1-(4-fluorophenyl)-3-1H-indolyl]ethylamine (14a)
A mixture of N-benzyl-N-methyl-2-(5-chloro-3-1H-indolyl)ethylamine (16 g, 0.054 mol), 4-fluoro-iodobenzene (14.3 g, 0.064 mol), K2CO3 (11.1 g, 0.080 mol) and 1-methyl-2-pyrrolidinone (200 mL) was heated at 165° C. for 8 h. After cooling to room temperature water (250 mL) was added and the thus formed mixture was extracted with diethyl ether (2×300 mL). The combined organic phases were washed with brine (3×500 mL) and dried (Na2SO4). Evaporation of the solvent afforded an oil that was purified by column chromatography (eluted with ethyl acetate/heptane 1:3) affording pure title compound as an oil: 13.7 g (26%) 1H NMR (CDCl3) δ 2.35 (s, 3 H), 2.70-2.80 (m, 2 H), 2.90-3.00 (m, 2 H), 3.60 (s, 2 H), 7.05-7.40 (m, 12 H), 7.55 (broad s, 1 H).

reactant | N-benzyl-N-methyl-2-(5-chloro-3-1H-indolyl)ethylamine | 0.054 mol, 16 g | C(C1=CC=CC=C1)N(C)CCC1=CNC2=CC=C(C=C12)Cl | C18H19ClN2
reactant | 4-fluoro-iodobenzene | 0.064 mol, 14.3 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | K2CO3 | 0.080 mol, 11.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-methyl-2-pyrrolidinone | 200 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 250 mL | O | H2O
product | N-benzyl-N-methyl-2-[5-chloro-1-(4-fluorophenyl)-3-1H-indolyl]ethylamine | C(C1=CC=CC=C1)N(C)CCC1=CN(C2=CC=C(C=C12)Cl)C1=CC=C(C=C1)F | C24H22ClFN2
